US05109004
Chlorine gas was passed through a solution of 2-nitro-4-trifluoromethoxy-aniline (14.5g) in carbon tetrachloride (175ml). The stirred mixture became solid, and more carbon tetrachloride (50ml) was added. Chlorine gas was passed through the reaction mixture until thin layer chromatography on silica gel, using petroleum ether (boiling range 60-80° C.) containing ethyl acetate (30% by volume) as eluent, demonstrated the absence of starting material. Evaporation of the solvent under reduced pressure gave a dark orange solid, which on trituration with petroleum ether (boiling range 60-80° C.) gave 2-chloro-4-trifluoromethoxy-6-nitroaniline as an orange solid.

reactant | Chlorine | ClCl | Cl2
reactant | 2-nitro-4-trifluoromethoxy-aniline | 14.5g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC(F)(F)F | C7H5F3N2O3
solvent | carbon tetrachloride | 175ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 50ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-4-trifluoromethoxy-6-nitroaniline | ClC1=C(N)C(=CC(=C1)OC(F)(F)F)[N+](=O)[O-] | C7H4ClF3N2O3
